.filter_single_ended.cir
*
*    
*                      Un0rick Anti-Aliasing Filter Single Ended Transformation
*    
*    
*    
*    
*                              R1 100 Ohm
*                                 ___
*                            .---|___|---.     C1 100 nF    R2 18 Ohm
*                            |           |        ||           ___    OUT            
*             .--------------o1         2o--------||------o---|___|---o-------------.
*             |              |    ___    |        ||      3           |             |
*             |              '----UUU----'                            |             |
*             |                                                       |             |
*             |                L1 100 nH                              |             |
*             |                                                       |            .-.
*           + |                                                      ---           | |
*            / \                                           C2 100 pF ---           | | RL 100 MOhm
*    U AC 1 ( ~ )                                                     |            '-'
*            \_/                                                      |             |
*           - |                                                       |             |
*             |                                                       |             |
*             |                                                       |             |
*             |                                                       |             |
*             -                                                       -             -
*            ---                                                     ---           ---
*            GND                                                     GND           GND
*
*
*
*


V1 GND 1     dc GND ac 1
R1 1   2     100
L1 1   2     100n
C1 2   3     100n
R2 3   OUT   18
C2 OUT GND   100p
RL OUT GND   100MEG

.ac dec 100 1 150Meg
.control
run

* Plot the Transfer Function 
*plot VDB(OUT)
*plot cph(OUT)


* Print the Values: ngspice filter_single_ended.cir > output.txt
* !!! Make sure to uncomment quit when doing this !!!
print VDB(OUT)
print cph(OUT)
quit
.endc
.end
